US07199147B2
Cesium carbonate (45 mg, 0.137 mmol) and thiophenol (24 ml, 0.229 mmol) were added to a solution of 4-methoxy-1H-indazol-5-yl 2-nitrobenzenesulfonate (40 mg, 0.115 mmol) in N,N-dimethylformamide (1 ml) at 0° C. After 30 minutes, the reaction solution was poured into water (20 ml) and extracted with ethyl acetate (20 ml×2). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 4-methoxy-1H-indazol-5-ol (19 mg, 100%).

reactant | Cesium carbonate | 0.137 mmol, 45 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thiophenol | 0.229 mmol, 24 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 4-methoxy-1H-indazol-5-yl 2-nitrobenzenesulfonate | 0.115 mmol, 40 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OC=1C(=C2C=NNC2=CC1)OC | C14H11N3O6S
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-1H-indazol-5-ol | 19 mg, 100% | COC1=C2C=NNC2=CC=C1O | C8H8N2O2
